US04897420
6-(4-Methoxyphenyl)hexanoic acid (3.7 g) is dissolved in thionyl chloride (5 ml) and the solution is stirred at room temperature overnight. The excess thionyl chloride is distilled off under reduced pressure and the residue is dissolved in petroleum ether (30 ml). Ice water (15 ml) is added to the solution and sodium peroxide (3 g) is added portionwise with ice-cooling and stirring. The mixture is extracted with chloroform and the extract is washed with water and dried. The solvent is then distilled off to give bis[6-(4-methoxyphenyl)hexanoyl]peroxide.

reactant | 6-(4-Methoxyphenyl)hexanoic acid | 3.7 g | COC1=CC=C(C=C1)CCCCCC(=O)O | C13H18O3
solvent | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
product | bis[6-(4-methoxyphenyl)hexanoyl]peroxide | COC1=CC=C(C=C1)CCCCCC(=O)OOC(CCCCCC1=CC=C(C=C1)OC)=O | C26H34O6
